US07705025B2
[4-(5-Chloro-1H-benzoimidazol-2-yl)-phenyl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
To a stirring solution of (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (11.0 mmol) and n-methylmorpholine (1.0 mmol) in dichloromethane (0.10M), slowly add the product from 4-(5-Chloro-1H-benzoimidazol-2-yl)-benzoyl chloride (1.0 mmol) diluted in dichloromethane. Stir reaction at room temperature for two hours. After this time wash the reaction with saturated aqueous sodium bicarbonate while extracting with 10% isopropanol/dichloromethane. Concentrate the organics in vacuo. Purify via radial chromatography eluting with 2M ammonia in methanol and dichloromethane. MS (m/e): 409.3 (M+1)

reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 11.0 mmol | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | n-methylmorpholine | 1.0 mmol | CN1CCOCC1 | C5H11NO
reactant | 4-(5-Chloro-1H-benzoimidazol-2-yl)-benzoyl chloride | 1.0 mmol | ClC1=CC2=C(NC(=N2)C2=CC=C(C(=O)Cl)C=C2)C=C1 | C14H8Cl2N2O
solvent | dichloromethane | 0.10M | ClCCl | CH2Cl2
product | [4-(5-Chloro-1H-benzoimidazol-2-yl)-phenyl]-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | ClC1=CC2=C(NC(=N2)C2=CC=C(C=C2)C(=O)N2C(CCC2)CN2CCCC2)C=C1 | C23H25ClN4O
